US06888032B2
Benzo[b]thiophene-3-carbonitrile
An oven dried screw cap test tube was charged with NaCN (60 mg, 1.225 mmol), dried KI (34 mg, 0.205 mmol, 20 mol %) and CuI (20 mg, 0.105 mmol, 10 mol %), evacuated and backfilled with argon three times. 3-Bromo-benzo[b]thiophene (135 μL, 1.032 mmol), N,N′-dimethylethylenediamine (110 μL, 1.033 mmol) and anhydrous toluene (700 μL) were added under argon. The tube was sealed and the reaction mixture was stirred magnetically at 110° C. for 24 h. The resulting suspension was cooled to room temperature, 2 mL of ethyl acetate, 1 mL of ammonium hydroxide (30%) and 1 mL of water were added. The mixture was stirred at 25° C. for 10 min, then the organic layer was separated and the aqueous layer was extracted three times with ethyl acetate (3×2 mL). The combined organic layers were washed with 5 mL of water and dried over MgSO4. The solvent was removed at reduced pressure. Purification of the residue by flash chromatography on silica gel (2×15 cm; hexane/ethyl acetate 10:1) provided 122 mg (74% yield) of the title compound as a pale yellow solid.

reactant | NaCN | 1.225 mmol, 60 mg | [C-]#N.[Na+]
reactant | 3-Bromo-benzo[b]thiophene | 1.032 mmol, 135 μL | BrC=1C2=C(SC1)C=CC=C2 | C8H5BrS
reactant | N,N′-dimethylethylenediamine | 1.033 mmol, 110 μL | CNCCNC | C4H12N2
reactant | ammonium hydroxide | 1 mL | [OH-].[NH4+]
catalyst | CuI | 0.105 mmol, 20 mg | [Cu]I
solvent | water | 1 mL | O | H2O
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
solvent | toluene | 700 μL | C1(=CC=CC=C1)C | C7H8
product | Benzo[b]thiophene-3-carbonitrile | 122 mg, 74% yield | S1C2=C(C(=C1)C#N)C=CC=C2 | C9H5NS
